US09290485B2
a) 1-(4-Methoxybenzyl)-1H-pyrazole-4-carboxylic acid
A mixture of ethyl 1H-pyrazole-4-carboxylate (400 mg, 2.85 mmol), K2CO3 (1.97 g, 14.3 mmol) and 4-methoxybenzyl bromide (0.453 ml, 3.14 mmol) in dry acetone (10 ml) was heated to 50° C. for 3 h. The reaction mixture was filtered, and the filtrate was concentrated. EtOH (10 mL) and KOH (320 mg, 5.71 mmol) were added and the mixture was heated to 65° C. for 6 h, before it was concentrated again. The crude product was dissolved in water (5 ml), washed with EA (2×10 ml) and acidified with 1N HCl. The resulting precipitate was collected by filtration, washed with water and dried in vacuo affording the title compound. LCMS RtL=0.86 min, [M+H]+=233.2.

reactant | ethyl 1H-pyrazole-4-carboxylate | 2.85 mmol, 400 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | K2CO3 | 14.3 mmol, 1.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxybenzyl bromide | 3.14 mmol, 0.453 ml | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | KOH | 5.71 mmol, 320 mg | [OH-].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-(4-Methoxybenzyl)-1H-pyrazole-4-carboxylic acid | COC1=CC=C(CN2N=CC(=C2)C(=O)O)C=C1 | C12H12N2O3
